US05231107
Synthesis of 1-(4-nitrophenyloxycarbonyl)-1,2,5,6-tetrahydropyridine-3-carboxaldehyde-O-methyloxime.
A solution of 97% 4-nitrophenyl chloroformate (1.5 g, 7.22 mmoles) in dichloromethane (15 mL) was added at 0° C. to a stirred solution of 1,2,5,6-tetrahydropyridine-3-carboxaldehyde-O-methyloxime (0.92 g, 6.6 mmoles) and triethylamine (0.92 mL, 6.6 mmoles) in dichloromethane (20 mL). The reaction mixture was then stirred at room temperature for 20 minutes, the solvent was evaporated and the residue was partitioned between water and ethyl acetate. The organic layer was dried (Na2SO4) and evaporated. The solid was recrystallized from benzene-cyclohexane to give 1.9 g (95%) of the desired product with mp 109°-110° C.

reactant | 4-nitrophenyl chloroformate | 7.22 mmoles, 1.5 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 1,2,5,6-tetrahydropyridine-3-carboxaldehyde-O-methyloxime | 6.6 mmoles, 0.92 g | CON=CC=1CNCCC1 | C7H12N2O
reactant | triethylamine | 6.6 mmoles, 0.92 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-(4-nitrophenyloxycarbonyl)-1,2,5,6-tetrahydropyridine-3-carboxaldehyde-O-methyloxime | 1.9 g, 95% | CON=CC=1CN(CCC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C14H15N3O5
